US07772256B2
5-Methoxybenzofuran boronic acid (230 mg, 1.20 mmol), 5-bromo-6-fluoro-pyridin-2-ylamine (191 mg, 1.00 mmol), Pd(PPh3)2Cl2 (16.8 mg, 0.024 mmol) and Et3N (317 μL, 2.27 mmol) were mixed in EtOH (10 mL) in a microwave vial. The reaction mixture was stirred at 140° C. for 15 minutes in a microwave reactor. The volatiles were then removed under reduced pressure, the residue was suspended in water and the product was extracted with ethyl acetate. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. Purification of the crude product by flash column chromatography using 25% ethyl acetate in hexane gave 6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-ylamine (130 mg) as an off-white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ: 8.05-8.21 (m, 1 H) 7.36 (d, J=8.59 Hz, 1 H) 7.03 (d, J=1.95 Hz, 1 H) 6.97 (d, J=3.12 Hz, 1 H) 6.86 (dd, J=8.78, 2.54 Hz, 1 H) 6.45 (d, J=6.63 Hz, 1 H) 4.66 (br. s., 2 H) 3.86 (s, 3 H)

reactant | 5-Methoxybenzofuran boronic acid | 1.20 mmol, 230 mg | COC=1C=CC2=C(C=C(O2)B(O)O)C1 | C9H9BO4
reactant | 5-bromo-6-fluoro-pyridin-2-ylamine | 1.00 mmol, 191 mg | BrC=1C=CC(=NC1F)N | C5H4BrFN2
reactant | Et3N | 2.27 mmol, 317 μL | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)2Cl2 | 0.024 mmol, 16.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-fluoro-5-(5-methoxy-benzofuran-2-yl)-pyridin-2-ylamine | 130 mg | FC1=C(C=CC(=N1)N)C=1OC2=C(C1)C=C(C=C2)OC | C14H11FN2O2
